US05366993
A. Cyclododecanecarboxaldehyde
To a solution of 9.92 g (50 mmol) of cyclododecane methanol in 100 ml of methylene chloride under a nitrogen atmosphere is added 50 mg of 2,2,6,6-tetramethyl-1-piperidinyloxy, free radical (TEMPO) and 510 mg (5 mmol) of sodium bromide in 5 ml of water. The solution is cooled to 10°-15° C. and a solution of 100 ml of 5.25% aqueous sodium hypochlorite and 2.0 g of sodium bicarbonate is added over 1 hour. The reaction mixture is allowed to warm to room temperature and after 1 hour is diluted with methylene chloride. The organic phase is washed with aqueous sodium aqueous bicarbonate and water. The methylene chloride layer is dried over magnesium sulfate, filtered and evaporated in vacuo to give 9.43 g of crude title compound as an oil: IR (film) 1723 cm-1 ; NMR (CDCl3)) δ1.34 (bs, 18 H), 1.41 (m, 4H), 1.54 (m, 2H), 1.65 (m, 2H), 2.40 (m, 1H), 9.64 (d, 1H, J=1.6 Hz) M+ (El) 196

reactant | cyclododecane methanol | 50 mmol, 9.92 g | C1(CCCCCCCCCCC1)CO | C13H26O
reactant | TEMPO | CC1(CCCC(N1[O])(C)C)C | C9H18NO
reactant | sodium bromide | 5 mmol, 510 mg | [Br-].[Na+]
reactant | sodium hypochlorite | 100 ml | Cl[O-].[Na+]
reactant | sodium bicarbonate | 2.0 g | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
solvent | water | 5 ml | O | H2O
product | Cyclododecanecarboxaldehyde | 9.43 g | C1(CCCCCCCCCCC1)C=O | C13H24O
